US04743290
4-Propylsulfinyl-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid, methyl ester
A solution of 2.32 g 4-propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid, methyl ester in 75 mL methylene chloride was cooled to -80° C. and 1.39 g of 80-85% m-chloroperoxybenzoic acid was added in one portion. After stirring at -80° C. for 20 minutes and warming to 20° C. the solution was diluted with more methylene chloride and washed with aqueous sodium bicarbonate, sodium bisulfite, sodium bicarbonate and water, dried and concentrated to 2.2 g of colorless oil in sufficiently pure form for the purposes of this invention.

reactant | 4-propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid, methyl ester | 2.32 g | C(CC)SC=1C(=C(SC1)C(=O)OC)S(=O)(=O)NC(C)(C)C | C13H21NO4S3
reactant | m-chloroperoxybenzoic acid | 1.39 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-Propylsulfinyl-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid, methyl ester | C(CC)S(=O)C=1C(=C(SC1)C(=O)OC)S(=O)(=O)NC(C)(C)C | C13H21NO5S3
